US08809369B2
A mixture of 2-(3-carboxy-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (706 mg, 2 mmol), aniline (0.22 mL, 2.4 mmol) and o-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (1.14 g, 3 mmol) in dichloromethane (6 mL) and triethyl-amine (0.7 mL, 5 mmol). The reaction mixture was stirred at 25° C. for 3 h. Then the reaction mixture was extracted with dichloromethane (2×100 mL), washed with water, dried over anhydrous sodium sulfate and concentrated in vacuo to afford 4,4-dimethyl-2-(3-phenylcarbamoyl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (800 mg, 93%) as a brown oil which was used for next step without further purification: MS (ESI) M+1=429.2.

reactant | 2-(3-carboxy-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 2 mmol, 706 mg | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)C(=O)O)(C)C | C21H23NO4
reactant | aniline | 2.4 mmol, 0.22 mL | NC1=CC=CC=C1 | C6H7N
reactant | o-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 3 mmol, 1.14 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethyl-amine | 5 mmol, 0.7 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 4,4-dimethyl-2-(3-phenylcarbamoyl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 800 mg, 93% | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)C(NC1=CC=CC=C1)=O)(C)C | C27H28N2O3
